US04337270
In a mixture of 30 ml of chloroform and 3 ml of triethylamine is dissolved 3.4 g of 5-chloroanthranilic acid. To this solution is added a solution of 4.5 g of 3,4-dimethoxycinnamoylchloride in chloroform, and the mixture is heated under reflux for 2 hours. The reaction mixture is concentrated under a reduced pressure, and to the residue is added water and hydrochloric acid then added to make the mixture weakly acidic. The precipitated crystals are collected by filtration and recrystallized from ethanol to obtain 3.1 g of N-(3,4-dimethoxycinnamoyl)-5-chloroanthranilic acid as pale yellow needles.

reactant | 5-chloroanthranilic acid | 3.4 g | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
reactant | 3,4-dimethoxycinnamoylchloride | 4.5 g | COC=1C=C(C=CC(=O)Cl)C=CC1OC | C11H11ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | N-(3,4-dimethoxycinnamoyl)-5-chloroanthranilic acid | 3.1 g | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC(=CC2)Cl)C=CC1OC | C18H16ClNO5
